US04933355
Ethyl 2-(3-p-chlorophenylthioureido)thiazol-4-ylglyoxylate
Following a procedure similar to that described in Preparation 1, the desired compound was prepared from 5 g of ethyl 2-aminothiazol-4-ylglyoxylate, 6.35 g of p-chlorophenyl isothiocyanate and 30 ml of hexamethylphosphoric triamide. The resulting product was a yellow powder having the following physical properties.

reactant | ethyl 2-aminothiazol-4-ylglyoxylate | 5 g | NC=1SC=C(N1)C(C(=O)OCC)=O | C7H8N2O3S
reactant | p-chlorophenyl isothiocyanate | 6.35 g | ClC1=CC=C(C=C1)N=C=S | C7H4ClNS
solvent | hexamethylphosphoric triamide | 30 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | Ethyl 2-(3-p-chlorophenylthioureido)thiazol-4-ylglyoxylate | ClC1=CC=C(C=C1)NC(NC=1SC=C(N1)C(C(=O)OCC)=O)=S | C14H12ClN3O3S2
